US06815447B2
N-[6-Nitro-2-(3-fluorophenyl)-4-quinolinyl]-N,N-dimethylamine:
6-Nitro-4-chloro-2-(3-fluoro-phenyl)-quinoline, 20 g (59.4 mmoles), was placed in a 500 mL three-neck round-bottom flask equipped with magnetic stirrer, nitrogen inlet, gas outlet, condenser and heating bath. The material was dissolved in 150 mL of N-methyl pyrrolidinone, stirred and 250 mL of a 40% aq. solution of dimethylamine was added. The mixture was then warmed to 60° C. for 48 hrs. At the end of this time the reaction was cooled, poured into 3 L of water in a 4 L Erlenmeyer flask and the mixture stirred until solids formed. The solids were collected by vacuum filtration and dried in a vacuum oven. The product was recrystallised from-ethanol in a −20° C. freezer to give 19.6 g (95%) yield of the desired product.

reactant | 6-Nitro-4-chloro-2-(3-fluoro-phenyl)-quinoline | [N+](=O)([O-])C=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)Cl | C15H8ClFN2O2
reactant | dimethylamine | CNC | C2H7N
reactant | water | 3 L | O | H2O
solvent | N-methyl pyrrolidinone | 150 mL | CN1CCCC1=O | C5H9NO
product | N-[6-Nitro-2-(3-fluorophenyl)-4-quinolinyl]-N,N-dimethylamine | [N+](=O)([O-])C=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)F)N(C)C | C17H14FN3O2
